US07737152B2
6-(Pyridin-4-yloxy)-N-(3,4,5-trimethoxyphenyl)pyrazin-2-amine, CJS 719
Using Method X with 150 mg of 2-(3,4,5-trimethoxyphenylamino)-6-chloropyrazine and 4-hydroxypyridine, the title compound was obtained (89 mg). Yield: 50%. 1H NMR (250 MHz, DMSO-d6) δ 3.64 (s, 3H), 3.79 (s, 6H), 6.29 (d, 2H, J=7.9 Hz), 7.07 (s, 2H), 8.19 (s, 1H), 8.32 (s, 1H), 8.43 (d, 2H, J=8.0 Hz), 9.91 (bs, 1H). 13C NMR (62.9 MHz, DMSO-d6) δ 55.61, 60.11, 96.50, 117.94, 121.98, 132.71, 132.79, 135.77, 136.52, 145.43, 150.31, 152.85, 178.22. m/z 355.1 [(M+H)+ calcd for C18H18N4O4 354.1].

reactant | 2-(3,4,5-trimethoxyphenylamino)-6-chloropyrazine | 150 mg | COC=1C=C(C=C(C1OC)OC)NC1=NC(=CN=C1)Cl | C13H14ClN3O3
reactant | 4-hydroxypyridine | OC1=CC=NC=C1 | C5H5NO
product | 6-(Pyridin-4-yloxy)-N-(3,4,5-trimethoxyphenyl)pyrazin-2-amine | Yield: 50% | N1=CC=C(C=C1)OC1=CN=CC(=N1)NC1=CC(=C(C(=C1)OC)OC)OC | C18H18N4O4
